US08034812B2
Production of 4-(imidazo[1,2-b]pyridazin-6-yloxy)aniline
A mixture of 6-chloroimidazo[1,2-b]pyridazine (768 mg, 5.0 mmol), 4-aminophenol (818 mg, 7.5 mmol), potassium carbonate (2073 mg, 15.0 mmol) and N-methylpyrrolidone (5.0 mL) was stirred at 120° C. for 18 hr. The reaction mixture was diluted with 1N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The organic layer was washed with 1N aqueous sodium hydroxide solution and saturated brine, and concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (hexane/ethyl acetate=70/30→0/100) and precipitated from diisopropyl ether to give the title compound (759 mg, 67%) as a gray powder.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 5.0 mmol, 768 mg | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | 4-aminophenol | 7.5 mmol, 818 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | potassium carbonate | 15.0 mmol, 2073 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 5.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 4-(imidazo[1,2-b]pyridazin-6-yloxy)aniline | 759 mg, 67% | N=1C=CN2N=C(C=CC21)OC2=CC=C(N)C=C2 | C12H10N4O
